US06734191B2
Preparation of 4-thiophen-2-yl-benzaldehyde
To a stirred degassed solution of 4-bromobenzaldehyde (371 mg, 2.00 mmol) and thiophene-2-boronic acid (287 mg, 2.24 mmol) in DME/THF (5 mL, 4:1) were added a 2 M Na2CO3 solution (3.0 mL) and Pd(PPh3)4 (110 mg, 0.095 mmol). The reaction mixture was flushed with argon and maintained under argon while being heated at 85° C. over 2 days. The mixture was then cooled and diluted with EtOAc (35 mL) and water (30 mL). The aqueous layer was washed with EtOAc (2×10 mL) and the combined organic extracts dried (Na2SO4), filtered and concentrated. Purification of the resultant oil by column chromatography on silica gel (Hexanes/EtOAc, 4:1) afforded the title compound (293 mg, 78%) as a yellow solid. 1H NMR (CDCl3) δ7.14 (dd, 1H, J=5.1, 3.6 Hz), 7.40 (dd, 1H, J=5.1, 0.9 Hz), 7.46 (dd, 1H, J=3.6, 0.9 Hz), 7.76 (d, 2H, J=8.4 Hz), 7.88 (d, 2H, J=8.4 Hz), 10.00 (s, 1H).

reactant | 4-bromobenzaldehyde | 2.00 mmol, 371 mg | BrC1=CC=C(C=O)C=C1 | C7H5BrO
reactant | thiophene-2-boronic acid | 2.24 mmol, 287 mg | S1C(=CC=C1)B(O)O | C4H5BO2S
reactant | Na2CO3 | 2 M, 3.0 mL | C(=O)([O-])[O-].[Na+].[Na+]
solvent | DME THF | 5 mL | COCCOC.C1CCOC1
catalyst | Pd(PPh3)4 | 0.095 mmol, 110 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 4-thiophen-2-yl-benzaldehyde | 293 mg, 78% | S1C(=CC=C1)C1=CC=C(C=O)C=C1 | C11H8OS
